US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxopiperidino)piperidino)propyl]-6-methoxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.366 g) was coupled to 4-(2-oxopiperidino)piperidine (0.176 g) by a method similar to that described in Example 8. The reaction product was purified by chromatography and converted to the corresponding hydrochloride salt as described in the Example 8 to afford the title compound (0.158 g); mp 154°-156° C.; MS: m/z=544(M+1); NMR(CD3OD): 2.3 (m,13), 3.4 (s,3), 4.5 (m,1), 4.8 (d,1, J=3.8), 6.71 (dd,1, J=2, 8.4), 6.9 (d,1, J=2), 7.13 (d,1, J=2.4), 7.24 (m.2), 7.77 (d,1, J=8.4). Analysis for C29H35Cl2N3O3.1.0 HCl.1.1H2O: Calculated: C, 59.95; H, 6.24, N, 7.23; Found: C, 57.97; H, 6.24; N, 6.73.

reactant | 3-(3,4-Dichlorophenyl)-3-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.366 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC(=CC=C12)OC)=O)C | C19H17Cl2NO3
reactant | 4-(2-oxopiperidino)piperidine | 0.176 g | O=C1N(CCCC1)C1CCNCC1 | C10H18N2O
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxopiperidino)piperidino)propyl]-6-methoxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.158 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)N1C(CCCC1)=O)C1N(C(C2=CC(=CC=C12)OC)=O)C | InChI=1S/C29H35Cl2N3O3.ClH/c1-32-28(23-8-7-21(37-2)18-24(23)29(32)36)22(19-6-9-25(30)26(31)17-19)12-16-33-14-10-20(11-15-33)34-13-4-3-5-27(34)35;/h6-9,17-18,20,22,28H,3-5,10-16H2,1-2H3;1H
